US05686459
841 mg (12.12 mmol) of hydroxylamine hydrochloride were suspended in 4 ml of DMF and cooled to 0° C. 303 mg (10.1 mmol) of 80% sodium hydride were added slowly. 365 mg (1.01 mmol) of (1RS,3SR,3aRS,6aSR)-4-(5-benzyl-2,3-dimethyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl)-benzonitrile were dissolved in DMF and added to the reaction mixture. The cooling was thereafter no longer renewed. The mixture was stirred at room temperature for 5 days. Thereafter, it was filtered and the solvent was removed in a high vacuum. The mixture was purified chromatographically (RP18, gradient from water to methanol). 191 mg (48%) of (3aRS,4SR,6RS,6aSR)-4-[4-(amino-hydroxyimino-methyl)-phenyl]-2-benzyl-5,6-dimethyl-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3-dione were isolated as a colourless powder. M.p.: 194°-196° C. ISP-MS: 393 ([M+H]+, 100); 303 (20); 219 (10).

reactant | hydroxylamine hydrochloride | 12.12 mmol, 841 mg | Cl.NO
reactant | sodium hydride | 10.1 mmol, 303 mg | [H-].[Na+]
reactant | (1RS,3SR,3aRS,6aSR)-4-(5-benzyl-2,3-dimethyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-yl)-benzonitrile | 1.01 mmol, 365 mg | C(C1=CC=CC=C1)N1C(C2C(C1=O)C(N(C2C2=CC=C(C#N)C=C2)C)C)=O | C22H21N3O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (3aRS,4SR,6RS,6aSR)-4-[4-(amino-hydroxyimino-methyl)-phenyl]-2-benzyl-5,6-dimethyl-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3-dione | 191 mg, 48% | NC(C1=CC=C(C=C1)C1C2C(C(N1C)C)C(N(C2=O)CC2=CC=CC=C2)=O)=NO | C22H24N4O3
